US08283354B2
To a solution of (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (160 mg, 0.35 mmol) in 2 mL CH2Cl2 was added 2 M HCL solution in ether (0.176 mL, 0.35 mmol) resulting in precipitation of a solid. After the addition of 10 mL ether, the reaction was stirred for 30 minutes, filtered and the resulting solid was dried to obtain (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride (130 mg, 76%).). LC/MS: m/z 453.5 (M+H)+ at 2.13 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSOd6) δ 8.29 (s, 1H), 7.57 (s, 2H), 7.43-7.49 (m, 1H), 6.83-6.89 (m, 2H), 5.08 (s, 1H), 4.23-4.42 (m, 4H), 3.62-3.73 (m, 5H), 2.24-2.34 (m, 1H), 2.04-2.11 (m, 2H), 1.86-1.92 (m, 1H).

reactant | (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 0.35 mmol, 160 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O)C | C24H25FN4O4
reactant | ether | 0.35 mmol, 0.176 mL | CCOCC | C4H10O
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-tetrahydrofuran-3-yl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride | 130 mg, 76% | Cl.FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O)C | InChI=1S/C24H25FN4O4.ClH/c1-14-5-6-17-19(11-14)27-22(21-18(25)3-2-4-20(21)30)28-23(17)29-9-7-15(12-29)26-24(31)33-16-8-10-32-13-16;/h2-6,11,15-16,30H,7-10,12-13H2,1H3,(H,26,31);1H/t15-,16+;/m1./s1
